US09387200B2
b) [(7-Hydroxy-3-methyl-4-pyrazin-2-yl-isothiazolo[4,5-c]pyridine-6-carbonyl)-amino]-acetic acid
The title compound was synthesized in analogy Example 3 from 7-hydroxy-3-methyl-4-pyrazin-2-yl-isothiazolo[4,5-c]pyridine-6-carboxylic acid butyl ester and glycine: MS (m/z) 346.1 (M+1).

reactant | 7-hydroxy-3-methyl-4-pyrazin-2-yl-isothiazolo[4,5-c]pyridine-6-carboxylic acid butyl ester | C(CCC)OC(=O)C1=C(C2=C(C(=N1)C1=NC=CN=C1)C(=NS2)C)O | C16H16N4O3S
reactant | glycine | NCC(=O)O | C2H5NO2
product | [(7-Hydroxy-3-methyl-4-pyrazin-2-yl-isothiazolo[4,5-c]pyridine-6-carbonyl)-amino]-acetic acid | OC=1C2=C(C(=NC1C(=O)NCC(=O)O)C1=NC=CN=C1)C(=NS2)C | C14H11N5O4S
